US09399640B2
Step 1. 4-(4-(cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl)-6-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-7(6H)-one
This compound was synthesized according to the procedure of Example 10, Step 5, using 5-bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole and 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one as the starting materials. LCMS calculated for C25H34N5O3Si (M+H)+: m/z=480.2. found: 480.1.

reactant | 5-bromo-4-(cyclopropylmethoxy)-1-methyl-1H-indazole | BrC=1C(=C2C=NN(C2=CC1)C)OCC1CC1 | C12H13BrN2O
reactant | 6-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1,6-dihydro-7H-pyrazolo[3,4-c]pyridin-7-one | CN1C(C2=C(C(=C1)B1OC(C(O1)(C)C)(C)C)C=NN2COCC[Si](C)(C)C)=O | C19H32BN3O4Si
product | 4-(4-(cyclopropylmethoxy)-1-methyl-1H-indazol-5-yl)-6-methyl-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-7(6H)-one | C1(CC1)COC1=C2C=NN(C2=CC=C1C=1C2=C(C(N(C1)C)=O)N(N=C2)COCC[Si](C)(C)C)C | C25H33N5O3Si
